US05043152
c) Preparation of 3-nitro-5-[2-isopropyl-1,3-dioxane-5-carboxamido]-N-hydroxyethyl benzamide
40 g (0.177 mole) of 3-nitro-5-amino-N-(2-hydroxyethyl)benzamide are dissolved in 400 cm3 of DMAC. The addition of 74.9 g (0.389 mole) of 2-isopropyl-1,3-dioxane-5-carboxylic acid chloride in the presence of triethylamine (54.6 cm3) gives rise to an exothermic reaction.

reactant | 3-nitro-5-amino-N-(2-hydroxyethyl)benzamide | 0.177 mole, 40 g | [N+](=O)([O-])C=1C=C(C(=O)NCCO)C=C(C1)N | C9H11N3O4
reactant | 2-isopropyl-1,3-dioxane-5-carboxylic acid chloride | 0.389 mole, 74.9 g | C(C)(C)C1OCC(CO1)C(=O)Cl | C8H13ClO3
reactant | triethylamine | 54.6 cm3 | C(C)N(CC)CC | C6H15N
solvent | DMAC | 400 cm3 | CC(=O)N(C)C | C4H9NO
product | 3-nitro-5-[2-isopropyl-1,3-dioxane-5-carboxamido]-N-hydroxyethyl benzamide | [N+](=O)([O-])C=1C=C(C(=O)NCCO)C=C(C1)NC(=O)C1COC(OC1)C(C)C | C17H23N3O7
